US04438143
1-(2-Cyano-4-n-hexanoylamino-phenoxy)-3-sec.butylamino-2-propanol
Ten grams (0.035 mol) of 1-(2-cyano-4-n-hexanoylamino-phenoxy)-2,3-epoxypropane were dissolved in 100 ml of ethanol, 7.3 gm (0.1 mol) of sec.butylamine were added, and the mixture was refluxed for one hour. After the solvent was distilled off in vacuo, the residue was purified by column chromatography in the manner described in Example 6. The base thus obtained was dissolved in ethyl acetate, washed with dilute NaOH and water, dried, and evaporated to dryness. The test substance remaining was recrystallized from ethyl acetate with the addition of petroleum ether. Subsequent recrystallization from acetonitrile yielded 2.4 gm of pure white crystalline base. M.p.: 72°-74° C.

reactant | 1-(2-cyano-4-n-hexanoylamino-phenoxy)-2,3-epoxypropane | 0.035 mol, Ten grams | C(#N)C1=C(OCC2CO2)C=CC(=C1)NC(CCCCC)=O | C16H20N2O3
reactant | sec.butylamine | 0.1 mol, 7.3 gm | C(C)(CC)N | C4H11N
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(2-Cyano-4-n-hexanoylamino-phenoxy)-3-sec.butylamino-2-propanol | 2.4 gm | C(#N)C1=C(OCC(CNC(C)CC)O)C=CC(=C1)NC(CCCCC)=O | C20H31N3O3
